US05356863
Synthesis of 3-(4-chloro-5-(2,6-dioxo-4-trifluoromethylpiperidin-1-yl)-2-fluorophenyl)-1-methyl-6-trifluoromethyl-2,4(1H,3H)-pyrimidinedione (Compound D-40)
To a solution of 0.50 g of 4-(N-(2-chloro-4-fluoro-5(1-methyl-6-trifluoromethyl-2,4(1H,3H)-pyrimidinedion-3-yl)phenyl)carbamoyl)-3-trifluoromethylbutyric acid and 7 ml of dry tetrahydrofuran was added dropwise 0.23 g of thionyl chloride at room temperature. After stirring for 2 hours under reflux, the temperature was cooled to room temperature, and the solvent was removed by distillation under reduced pressure. The resulting crude product was extracted with ethyl acetate, washed successively with water, a saturated aqueous solution of sodium hydrogen carbonate and a saturated saline solution, and dried over anhydrous sodium sulfate followed by removing ethyl acetate by distillation to obtain 0.50 g of the desired compound as crystal.

reactant | 4-(N-(2-chloro-4-fluoro-5(1-methyl-6-trifluoromethyl-2,4(1H,3H)-pyrimidinedion-3-yl)phenyl)carbamoyl)-3-trifluoromethylbutyric acid | 0.50 g | ClC1=C(C=C(C(=C1)F)N1C(N(C(=CC1=O)C(F)(F)F)C)=O)NC(=O)CC(CC(=O)O)C(F)(F)F | C18H13ClF7N3O5
reactant | thionyl chloride | 0.23 g | S(=O)(Cl)Cl | Cl2OS
reactant | tetrahydrofuran | 7 ml | O1CCCC1 | C4H8O
product | 3-(4-chloro-5-(2,6-dioxo-4-trifluoromethylpiperidin-1-yl)-2-fluorophenyl)-1-methyl-6-trifluoromethyl-2,4(1H,3H)-pyrimidinedione | 0.50 g | ClC1=CC(=C(C=C1N1C(CC(CC1=O)C(F)(F)F)=O)N1C(N(C(=CC1=O)C(F)(F)F)C)=O)F | C18H11ClF7N3O4
